US07777038B2
A DMF solution (10 ml) of 1.0 g (2.99 mmol) of 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione and 0.455 g (3.29 mmol) of potassium carbonate was cooled with ice, and 0.876 g (3.04 mmol) of triphenylmethylchloride was added thereto, followed by stirring at room temperature overnight. Water was added to the reaction liquid and the mixture was extracted with ethyl acetate. The organic layer was washed twice with water and once with saturated sodium chloride solution, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1→ethyl acetate). The purified product was concentrated under reduced pressure and evaporated to dryness, giving 700 mg (40.6% yield) of 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]-3-tritylthiazolidine-2,4-dione as a colorless amorphous solid.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 2.99 mmol, 1.0 g | OCCCN1C(CCC2=C(C=CC=C12)CC1C(NC(S1)=O)=O)=O | C16H18N2O4S
reactant | potassium carbonate | 3.29 mmol, 0.455 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylmethylchloride | 3.04 mmol, 0.876 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | Water | O | H2O
product | 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]-3-tritylthiazolidine-2,4-dione | 700 mg, 40.6% yield | OCCCN1C(CCC2=C(C=CC=C12)CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C35H32N2O4S
